US08685974B2
3-(4-chloro-2-thienyl)-1H-pyrazole (24.0 mmol) was dissolved in 50 mL N,N-dimethylformamide under argon atmosphere. N-Iodosuccinimide (25.1 mmol) was added in small portions. The reaction mixture was stirred at room temperature overnight. 5% aqueous sodium thiosulfate solution and saturated aqueous sodium carbonate solution were added and the mixture was stirred at room temperature for 1 h. The white precipitate was filtered, washed thoroughly with water and dried in vacuum to afford 6.80 g of 3-(4-chloro-2-thienyl)-4-iodo-1H-pyrazole (91% yield) that was used without further purification.

reactant | 3-(4-chloro-2-thienyl)-1H-pyrazole | 24.0 mmol | ClC=1C=C(SC1)C1=NNC=C1 | C7H5ClN2S
reactant | N-Iodosuccinimide | 25.1 mmol | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-thienyl)-4-iodo-1H-pyrazole | 6.80 g, 91% yield | ClC=1C=C(SC1)C1=NNC=C1I | C7H4ClIN2S
